US05486466
Crude p-nitrobenzyl 2-bromomethyl-3-(tert-butyldimethylsilyloxy)-5-methoxy-6-methylbenzoate, as obtained in Example 23 (d), was reacted with N-[N-(tert-butoxycarbonyl)-D-seryl]-L-cysteine methyl ester in an analogous manner to the procedure described in Example 1 (f), and the product was subjected in an analogous manner to the sequence of procedures used in Example 23 to yield tert-butyl (4R, 7R)-1,3,4,5,6,7,8,10-octa-hydro-14-hydroxy-12-methoxy-4-methoxycarbonyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate as a white solid.

reactant | p-nitrobenzyl 2-bromomethyl-3-(tert-butyldimethylsilyloxy)-5-methoxy-6-methylbenzoate | BrCC1=C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=C(C=C1O[Si](C)(C)C(C)(C)C)OC)C | C23H30BrNO6Si
reactant | N-[N-(tert-butoxycarbonyl)-D-seryl]-L-cysteine methyl ester | COC([C@@H](NC([C@H](NC(=O)OC(C)(C)C)CO)=O)CS)=O | C12H22N2O6S
product | tert-butyl (4R, 7R)-1,3,4,5,6,7,8,10-octa-hydro-14-hydroxy-12-methoxy-4-methoxycarbonyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate | OC1=CC(=C(C=2C(OC[C@H](C(N[C@@H](CSCC21)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C)OC | C22H30N2O9S
